US07514470B2
N2-(Cyclopropylmethyl)-N2-(3,4-dicyanophenyl)-N1-ethylglycinamide
Synthesized in a manner similar to example 3 using N-(cyclopropylmethyl)-N-(3,4-dicyanophenyl)glycine and ethylamine: MS (ES) m/z 283 (M+1).

reactant | N-(cyclopropylmethyl)-N-(3,4-dicyanophenyl)glycine | C1(CC1)CN(CC(=O)O)C1=CC(=C(C=C1)C#N)C#N | C14H13N3O2
reactant | ethylamine | C(C)N | C2H7N
product | N2-(Cyclopropylmethyl)-N2-(3,4-dicyanophenyl)-N1-ethylglycinamide | C1(CC1)CN(CC(=O)NCC)C1=CC(=C(C=C1)C#N)C#N | C16H18N4O
